US06610707B1
Alpha-[(tert-Butoxycarbonyl)amino]phenylacetic Acid
The title compound was prepared by a similar method to Preparation 1 from alpha-aminophenylacetic acid and di-t-butyldicarbonate to afford alpha-[(tert-butoxycarbonyl)amino]phenylacetic acid as a white solid.

reactant | alpha-aminophenylacetic acid | NC(C(=O)O)C1=CC=CC=C1 | C8H9NO2
reactant | di-t-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | alpha-[(tert-butoxycarbonyl)amino]phenylacetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=CC=C1 | C13H17NO4
